US08609680B2
Preparation of 7-[(4-methoxyphenyl)acetyl]-2,7-diazaspiro[3.5]nonane hydrochloride (I-1b)
To a solution of tert-butyl 7-[(4-methoxyphenyl)acetyl]-2,7-diazaspiro[3.5]nonane-2-carboxylate (2.75 g, 11.2 mmol) in 15 mL of anhydrous dioxane was added 4N HCl in dioxane (3.8 mL). The reaction mixture was stirred at room temperature overnight. Methanol (3 mL) was added to dissolve the solids and the mixture was stirred at ambient temperature for another 2 hours. The reaction was concentrated to dryness and dried on high vacuum overnight to provide the product as a light yellow foam (2.31 g). MS (ES+) 275.4 (M+H)+. 1H NMR (D2O) δ 1.58 (t, 2H), 1.75 (t, 2H), 3.39 (t, 4H), 3.63 (s, 2H), 3.70 (s, 3H), 3.72-3.82 (m, 4H), 6.86 (d, 2H), 7.08 (d, 2H).

reactant | tert-butyl 7-[(4-methoxyphenyl)acetyl]-2,7-diazaspiro[3.5]nonane-2-carboxylate | 11.2 mmol, 2.75 g | COC1=CC=C(C=C1)CC(=O)N1CCC2(CN(C2)C(=O)OC(C)(C)C)CC1 | C21H30N2O4
reactant | HCl | 4N | Cl | ClH
reactant | Methanol | 3 mL | CO | CH4O
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 3.8 mL | O1CCOCC1 | C4H8O2
product | 7-[(4-methoxyphenyl)acetyl]-2,7-diazaspiro[3.5]nonane hydrochloride | 2.31 g | Cl.COC1=CC=C(C=C1)CC(=O)N1CCC2(CNC2)CC1 | InChI=1S/C16H22N2O2.ClH/c1-20-14-4-2-13(3-5-14)10-15(19)18-8-6-16(7-9-18)11-17-12-16;/h2-5,17H,6-12H2,1H3;1H
